US07087754B2
tert-Butyl 6-amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate (Example 4)
A solution of tert-butyl 6-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate (269 mg, 1 mmol) in DMF (2 mL) was treated with PdCl2(PPh3)2 (35 mg, 0.05 mmol) and 2-(tributylstannyl)furan (315 μL, 1 mmol), stirred at room temperature for 16 h and the resulting solid filtered and washed with EtOAc to give the title compound (298 mg, 99%) as a cream solid.

reactant | tert-butyl 6-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate | 1 mmol, 269 mg | NC1=NC(=C2C(=N1)N(N=C2)C(=O)OC(C)(C)C)Cl | C10H12ClN5O2
reactant | 2-(tributylstannyl)furan | 1 mmol, 315 μL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 6-amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate | 298 mg, 99% | NC1=NC(=C2C(=N1)N(N=C2)C(=O)OC(C)(C)C)C=2OC=CC2 | C14H15N5O3
